data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1515,1670,[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]([CH3:19])=[O:20])[o:21][c:22]1=[O:23].[F:1][C:2]1([Br:3])[C:4]#[C:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1)[C:17]1([C:18]([CH3:19])=[O:20])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:22](=[O:23])[O:21]1,water,298.15,17.486151190596527,-34.80248019154061
207,225,[CH3:12][C:13]#[N+:14][N-:15][C:16]#[N:17].[CH3:1][O:2][C:3]1([Cl:4])[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][O:2][C:3]1([Cl:4])[c:5]2[c:6]([n:15]([C:16]#[N:17])[n:14][c:13]2[CH3:12])[CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1,water,298.15,15.691629237470146,-73.5582674803442
3927,4492,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[CH:17][C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:17]([C:18]([CH3:19])=[O:20])[NH:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,22.69237474867489,-11.488294230916448
2418,2686,[CH3:14][O:15][C:16](=[O:17])[C:18]([C:19]([CH3:20])=[O:21])=[N+:22]([CH3:23])[C-:24]([C:25](=[O:26])[O:27][CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][C:2](=[O:3])[C:4]([C:5]#[N:6])=[C:7]([C:8]([CH3:9])=[O:10])[C:11]([CH3:12])=[O:13]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[C:18]([C:16]([O:15][CH3:14])=[O:17])([C:19]([CH3:20])=[O:21])[N:22]([CH3:23])[C:24]1([C:25](=[O:26])[O:27][CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,47.07809492093458,9.949383293848284
1250,1366,[CH3:13][C:14](=[O:15])[c:16]1[o:17][c:18](=[O:19])[c-:20]([C:21]([CH3:22])=[O:23])[o+:24]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:20]1([C:21]([CH3:22])=[O:23])[C:18](=[O:19])[O:17][C:16]3([C:14]([CH3:13])=[O:15])[O:24]1,water,298.15,12.215662928200018,-33.895717211306874
1090,1188,[CH2-:15][NH+:16]=[C:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH2:15][NH:16][C:17]3([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24],water,298.15,12.730805840174131,-34.51811645633675
4698,5355,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([NH+:12]=[C:13]([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:23]([CH3:24])=[O:25])[NH:12][C:13]1([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,36.539723634116406,-1.827585511542528
1599,1768,[CH3:18][O:19][C:20](=[O:21])[N-:22][N+:23]([CH3:24])=[CH:25][C:26]([CH3:27])=[O:28].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH:25]([C:26]([CH3:27])=[O:28])[N:23]([CH3:24])[N:22]2[C:20]([O:19][CH3:18])=[O:21],water,298.15,7.475433498490871,-47.74331171224555
3693,4214,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:12]([C:13]#[N:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:11]=[CH:10]1,water,298.15,11.92954962505356,-31.26445483130856
481,526,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Cl:7].[CH3:8][O:9][C:10](=[O:11])[CH-:12][N+:13]([CH3:14])=[C:15]([C:16]#[N:17])[C:18]([CH3:19])=[O:20]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:12]([C:10]([O:9][CH3:8])=[O:11])[N:13]([CH3:14])[C:15]1([C:16]#[N:17])[C:18]([CH3:19])=[O:20],water,298.15,22.581674206564035,-44.20544743240576
1009,1099,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([CH3:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[CH3:23].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:21]([CH3:22])([CH3:23])[N:19]([CH3:20])[C:17]3([C:15]([NH:14][CH3:13])=[O:16])[CH3:18],water,298.15,21.147569864217328,-49.05225978218197
76,87,[CH3:11][C:12](=[O:13])[C:14]#[N+:15][O-:16].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[O:16][N:15]=[C:14]2[C:12]([CH3:11])=[O:13],water,298.15,18.500640402566127,-34.00136452742488
